US07300936B2
2-(4-Chlorobenzenesulfonylamino)-5-hexenoic acid ethyl ester:
A mixture of (benzhydrylidene-amino)acetic acid ethyl ester (20 g, 74.8 mmol), 4-bromo-1-butene (10.1 g, 74.8 mmol), K2CO3 (31.0 g, 224 mmol), tetrabutylammonium bromide (2.41 g, 7.48 mmol), and acetonitrile (150 mL) was heated at reflux for 6 h. The reaction was cooled to rt and filtered through a sintered glass funnel. The filtrate was concentrated in vacuo. The residue was dissolved in diethyl ether (250 mL) and a white solid precipitated. The solid was removed by vacuum filtration. A solution of 1 N HCl (150 mL) was added to the filtrate, which contained the crude product (2-(benzhydrylidene-amino)-hex-5-enoic acid ethyl ester). The resulting biphasic mixture was stirred vigorously for 18 h. The mixture was transferred to a separatory funnel. The aqueous layer was collected and concentrated in vacuo. The residue was dissolved in toluene (2×200 mL) and reconcentrated. The crude amino ester was dissolved in CH2Cl2 and reacted with 4-chlorobenzenesulfonyl chloride (15.8 g, 74.8 mmol) and Et3N (31.2 mL, 224 mmol). After 18 h, the resulting mixture was poured into 1 N HCl (500 mL). The organic layer was collected and washed sequentially with 1 N HCl (500 mL) and brine (50 mL). The organic layer was dried over MgSO4, filtered, and concentrated in vacuo. The crude concentrate was purified using silica gel column chromatography (5:1, hexanes/EtOAc) to afford 5.57 g (23% yield over 3 steps) of the title compound: LCMS (M+Na)+354.0; 1H NMR (400 MHz, DMSO-d6) δ8.47 (d, 1H, J=8.8), 7.76 (d, 2H, J=8.8), 7.66 (d, 2H, J=8.8), 5.69 (m, 1H), 4.95-4.88 (m, 2H). 3.86 (q, 2H, J=7.1), 3.76 (m, 1H), 1.98 (m, 2H), 1.71-1.54 (m, 2H), 1.03 (t, 3H, J=7.1).

reactant | (benzhydrylidene-amino)acetic acid ethyl ester | 74.8 mmol, 20 g | C(C)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H17NO2
reactant | 4-bromo-1-butene | 74.8 mmol, 10.1 g | BrCCC=C | C4H7Br
reactant | K2CO3 | 224 mmol, 31.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-chlorobenzenesulfonyl chloride | 74.8 mmol, 15.8 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | Et3N | 224 mmol, 31.2 mL | CCN(CC)CC | C6H15N
reactant | HCl | 1 N, 500 mL | Cl | ClH
catalyst | tetrabutylammonium bromide | 7.48 mmol, 2.41 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 2-(4-Chlorobenzenesulfonylamino)-5-hexenoic acid ethyl ester | 23% yield | C(C)OC(C(CCC=C)NS(=O)(=O)C1=CC=C(C=C1)Cl)=O | C14H18ClNO4S
